US08604029B2
Thionyl chloride (14 mL, 192 mmol) was added-dropwise to a solution of 2-chloro-5-nitrobenzoic acid (10 g, 49.6 mmol) in chloroform (150 mL) at 0° C. The mixture was heated to reflux for 4 h then cooled to r.t., concentrated in vacuo and dried under high vacuum to yield 2-chloro-5-nitrobenzoyl chloride (10 g, 91.7%) as a solid. Under nitrogen, triethylamine (19 mL, 136 mmol) was added slowly to a solution of aminoacetaldehyde dimethyl acetal (5.43 mL, 50.0 mmol) in dry DCM (20 mL) at 0° C. 2-Chloro-5-nitrobenzoyl chloride (10 g, 45.5 mmol) was slurried in dry DCM (30 mL) and added over a period of 30 minutes. The mixture was allowed to warm to r.t. and stirred overnight then partitioned between water and DCM. The organic phase was washed with saturated sodium bicarbonate solution, water and brine then dried over sodium sulfate and concentrated. The crude product was triturated with petroleum ether then diethyl ether and finally purified by column chromatography on silica gel (60-120 mesh) eluting with ethyl acetate/petroleum ether (2% to 40% gradient) to afford 2-chloro-N-(2,2-dimethoxy-ethyl)-5-nitro benzamide (8.3 g, 63%) as a yellow solid.

reactant | triethylamine | 136 mmol, 19 mL | C(C)N(CC)CC | C6H15N
reactant | aminoacetaldehyde dimethyl acetal | 50.0 mmol, 5.43 mL | COC(CN)OC | C4H11NO2
reactant | 2-Chloro-5-nitrobenzoyl chloride | 45.5 mmol, 10 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(2,2-dimethoxy-ethyl)-5-nitro benzamide | 8.3 g, 63% | ClC1=C(C(=O)NCC(OC)OC)C=C(C=C1)[N+](=O)[O-] | C11H13ClN2O5
